US04863904
To a solution of 3.32 g of 2-(1-naphthylmethyl)-6-phenylhexanoic acid in 50 ml of dry acetonitrile were added 2.70 g of N,N'-disuccinimidylcarbonate and 2.0 ml of triethylamine with stirring at room temperature, and the mixture was stirred for 1 hour. The reaction mixture was added dropwise to a mixture of 2.42 g of L-histidine methyl ester dihydrochloride, 6 ml of N-methylmorpholine, 120 ml of dry N,N-dimethylformamide and 300 ml of dry chloroform, and the resulting mixture was stirred for 24 hours at 50° C. The reaction mixture was concentrated under reduced pressure and a 5% aqueous sodium bicarbonate solution was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel flash column chromatography (eluent: chloroform/methanol=30/1 by volume) to obtain 3.06 g of N-[2-(1-naphthylmethyl)-6-phenylhexanoyl]-L-histidine methyl ester as a white powder.

reactant | 2-(1-naphthylmethyl)-6-phenylhexanoic acid | 3.32 g | C1(=CC=CC2=CC=CC=C12)CC(C(=O)O)CCCCC1=CC=CC=C1 | C23H24O2
reactant | N,N'-disuccinimidylcarbonate | 2.70 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | L-histidine methyl ester dihydrochloride | 2.42 g | Cl.Cl.COC([C@@H](N)CC1=CNC=N1)=O
reactant | N-methylmorpholine | 6 ml | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
product | N-[2-(1-naphthylmethyl)-6-phenylhexanoyl]-L-histidine methyl ester | 3.06 g | COC([C@@H](NC(C(CCCCC1=CC=CC=C1)CC1=CC=CC2=CC=CC=C12)=O)CC1=CNC=N1)=O | C30H33N3O3
